US04014882
A mixture of 2-dimethylamino-4-trifluoromethyl-6-hydroxypyrimidine (3.1 G), anhydrous potassium carbonate (2.8 g), and dry ethyl acetate (50 ml) was refluxed together for 1 hour and then cooled to about 40° C. Diethylphosphorochloridate (2.54 g) was then added dropwise to the stirred mixture and when the addition was complete the mixture was refluxed for 16 hours, after which it was allowed to cool to the ambient temperature. After filtration to remove the solids present, the filtrate was washed with water (2 × 50 ml), 10% w/v aqueous sodium hydroxide solution (1 × 50 ml), and finally with water until the washings were neutral. The ethyl acetate solution was dried over anhydrous magnesium sulphate, and after filtering, the the solvent was evaporated under reduced pressure to yield a residual pale yellow oil, which on cooling and scratching yielded crystalline O,O-diethyl 2-dimethylamino-4-trifluoromethylpyrimidin-6-yl phosphate, melting point 22°-24° C.

reactant | 2-dimethylamino-4-trifluoromethyl-6-hydroxypyrimidine | CN(C1=NC(=CC(=N1)C(F)(F)F)O)C | C7H8F3N3O
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | Diethylphosphorochloridate | 2.54 g | C(C)OP(OCC)(=O)Cl | C4H10ClO3P
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | O,O-diethyl 2-dimethylamino-4-trifluoromethylpyrimidin-6-yl phosphate | P(=O)(OCC)(OCC)OC1=CC(=NC(=N1)N(C)C)C(F)(F)F | C11H17F3N3O4P
